US06225306B1
(2S, 4R)-[4-(tert-Butyldimethylsilyloxy)-1-(2-Nitrophenyl)-2-Pyrrolidinyl]Methyl Alcohol
To a solution of (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrophenyl) proline methyl ester (9.62 g) obtained in Reference Example 40 ml anhydrous tetrahydrofuran (300 ml), there was added, in small portions, 0.96 g of lithium borohydride under ice-cooling. After stirring the reaction liquid at room temperature over 15 hours, it was poured into ice water and then extracted with ethyl acetate. The organic phase thus obtained was washed with water, dried over anhydrous magnesium sulfate and then concentrated. The residue thus obtained was subjected to silica gel column chromatography and then eluted with ethyl acetate/hexane (1/9) to give 8.55 g (yield 96.1%) of the title compound.

reactant | (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrophenyl) proline methyl ester | 9.62 g | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)[N+](=O)[O-])=O | C18H28N2O5Si
reactant | lithium borohydride | 0.96 g | [BH4-].[Li+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (2S, 4R)-[4-(tert-Butyldimethylsilyloxy)-1-(2-Nitrophenyl)-2-Pyrrolidinyl]Methyl Alcohol | 8.55 g, yield 96.1% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C1=C(C=CC=C1)[N+](=O)[O-])CO | C17H28N2O4Si
